US06573218B1
Step 5 Palladium on activated carbon (10%, 0.1 g) was added to a solution of 7-chloro-2-ethyl-5-fluoro-4-nitrobenzoxazole (0.86 g) in ethyl acetate (80 ml) and hydrogen was bubbled through the suspension for 5 hours. After filtration and evaporation, 4-amino-7-chloro-2-ethyl-5-fluorobenzoxazole(0.73 g) was obtained as the single product.

reactant | 7-chloro-2-ethyl-5-fluoro-4-nitrobenzoxazole | 0.86 g | ClC1=CC(=C(C=2N=C(OC21)CC)[N+](=O)[O-])F | C9H6ClFN2O3
catalyst | Palladium on activated carbon | 0.1 g | [Pd] | Pd
solvent | ethyl acetate | 80 ml | C(C)(=O)OCC | C4H8O2
solvent | hydrogen | [H][H] | H2
product | 4-amino-7-chloro-2-ethyl-5-fluorobenzoxazole | 0.73 g | NC1=C(C=C(C2=C1N=C(O2)CC)Cl)F | C9H8ClFN2O
